US08748434B2
b) 6-Chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-ylamine
The title compound was prepared in analogy to example 1, intermediate b, from 4-bromo-6-chloropyridazin-3-amine (CAS RN 446273-59-2) and 2-methoxypyridine-3-boronic acid (CAS RN 163105-90-6) after a reaction time of 18 hours. Brown solid (49%). MS (ESI+): m/z=237.054 ([M+H]+).

reactant | 4-bromo-6-chloropyridazin-3-amine | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
reactant | 2-methoxypyridine-3-boronic acid | COC1=NC=CC=C1B(O)O | C6H8BNO3
product | 6-Chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C=1C(=NC=CC1)OC | C10H9ClN4O
